US09425415B2
In another step, 2-[3-(3,5-Dimethylpyrazol-1-yl)-phenoxy]-Netrahydropyranyl) carbazole was synthesized. To a 100 mL sealed tube was added with N-tetrahydropyranyl-2-hydroxycarbazole (880 mg, 3.0 mmol), N-(3-Bromophenyl)-3,5-dimethylpyrazole (826 mg, 3.30 mmol), Cesium carbonate (2.9 g, 3 mmol), copper(I) iodide (57 mg, 0.3 mmol), N, N-dimethylglycine (93 mg, 0.9 mmol) and 1,4-dioxane (8 mL) in glove box, and the mixture was stirred at 90° C. for 3 days. After cooling to rt, the mixture was treated with water (75 mL) and ethyl acetate (40 mL), and the water phase was extracted with ethyl acetate (3×30 mL). The organic extracted phase was combined, washed with brine (3×30 mL), dried with magnesium sulfate and concentrated. The resulting crude product was purified with an silica gel chromatography with hexane/ethyl acetate=3:1 as eluent to give an white colloidal solid. (1.12 g, 79% yield).

reactant | N-tetrahydropyranyl-2-hydroxycarbazole | 3.0 mmol, 880 mg | O1C(CCCC1)N1C2=CC=CC=C2C=2C=CC(=CC12)O | C17H17NO2
reactant | N-(3-Bromophenyl)-3,5-dimethylpyrazole | 3.30 mmol, 826 mg | BrC=1C=C(C=CC1)N1N=C(C=C1C)C | C11H11BrN2
reactant | Cesium carbonate | 3 mmol, 2.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N, N-dimethylglycine | 0.9 mmol, 93 mg | CN(CC(=O)O)C | C4H9NO2
catalyst | copper(I) iodide | 0.3 mmol, 57 mg | [Cu]I
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 75 mL | O | H2O
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | carbazole | 79% yield | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
